US07074777B2
(1) 1α,3β-bis(tert-butyldimethylsilyloxy)-17-methyleneandrost-5-ene
A mixture of tetrahydrofuran (70 ml), methyltriphenylphosphonium bromide (50 g) and potassium t-butoxide (13.9 g) were stirred at 60° C. for 2 hours, while under suspension. To this suspension, was added 1α,3β-bis(tert-butyldimethylsilyloxy)androst-5-ene (18.7 g) and tetrahydrofuran (60 ml), followed by reaction for 2 hours under reflux. Under cooling with ice, the reaction mixture was slowly added to a cooled mixture of hexane (200 ml) and water (100 ml) to stop the reaction. The organic layer was washed with saturated brine twice, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to remove the solvent, giving crude crystals (27 g). The crude crystals were mixed with hexane (100 ml), stirred at room temperature while under suspension. After filtering off insoluble material from the suspension, the filtrate was evaporated under reduced pressure to remove the solvent, giving crude crystals, which were then dissolved in acetone (80 ml) by stirring at room temperature. The mixture was mixed with methanol (160 ml) and stirred at room temperature; the thus precipitated crystals were collected by filtration and dried to give the titled compound (13.2 g).

reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
reactant | potassium t-butoxide | 13.9 g | CC(C)([O-])C.[K+]
reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)androst-5-ene | 18.7 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CCC[C@@]4(C)CC[C@@H]3[C@@]12C)O[Si](C)(C)C(C)(C)C | C31H58O2Si2
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 50 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetone | 80 ml | CC(=O)C | C3H6O
solvent | methanol | 160 ml | CO | CH4O
solvent | hexane | 100 ml | CCCCCC | C6H14
solvent | water | 100 ml | O | H2O
solvent | hexane | 200 ml | CCCCCC | C6H14
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-methyleneandrost-5-ene | 13.2 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=C)O[Si](C)(C)C(C)(C)C | C32H58O2Si2
